US04419352
Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate
Ethyl 6-chloro-2,3-dihydro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate (0.405 g) was suspended in cymene (10 ml) and refluxed with Pd/C (5%, 0.200 g) for 10 hours. The whole was filtered hot, to remove the catalyst, cooled, poured into petroleum ether (40°-60°, 40 ml), to give a pale buff solid, which was chromatographed of silica, to give the title compound, (0.027 g) mp 174°-176°.

reactant | Ethyl 6-chloro-2,3-dihydro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate | 0.405 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(CC(O3)C(=O)OCC)=O)CCC)C(=O)OC | C20H20ClNO6
solvent | cymene | 10 ml | C1(=CC=C(C=C1)C)C(C)C | C10H14
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate | 0.027 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OC | C20H18ClNO6
